US09284427B2
Into a 500-ml glass reaction vessel, 15.4 g of 4-(4-i-propylphenyl)-indene (67 mmol), 7.2 ml of distilled water and 200 ml of DMSO were added. Then, 17 g (93 mmol) of N-bromosuccinimide was gradually added and the resultant mixture was stirred for 2 hours at room temperature. The reaction liquid was poured into 500 ml of distilled water, and the resultant mixture was extracted with 100 ml of toluene for 3 times. The resultant toluene layer was washed with saturated brine. Then, 2 g (11 mmol) of p-toluenesulfonic acid was added to the washed toluene layer and refluxed under heating while removing water. The reaction liquid was left to cool, washed with saturated brine and dried over sodium sulfate. Then, the sodium sulfate was removed by filtration and the resultant filtrate was evaporated under reduced pressure to remove the solvent. The resultant residue was purified by silica gel column chromatography to thereby obtain 19.8 g of 2-bromo-4-(4-i-propylphenyl)-indene as yellow liquid (yield: 96%).

reactant | 4-(4-i-propylphenyl)-indene | 67 mmol, 15.4 g | C(C)(C)C1=CC=C(C=C1)C1=C2C=CCC2=CC=C1 | C18H18
reactant | N-bromosuccinimide | 93 mmol, 17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | p-toluenesulfonic acid | 11 mmol, 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
solvent | water | 7.2 ml | O | H2O
product | 2-bromo-4-(4-i-propylphenyl)-indene | 19.8 g, yield: 96% | BrC=1CC2=CC=CC(=C2C1)C1=CC=C(C=C1)C(C)C | C18H17Br
